US07129238B2
In analogy to example 57.1 (RS)-N-(4-cyano-benzyl)-2-[2-fluoro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-2-methoxy-acetamide was reacted with 3-bromopyridine to give (RS)-N-(4-cyano-benzyl)-2-(2-fluoro-4-pyridin-3-yl-phenyl)-2-methoxy-acetamide. Light brown amorphous solid. MS 376.3 ([M+H]+)

reactant | (RS)-N-(4-cyano-benzyl)-2-[2-fluoro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-2-methoxy-acetamide | C(#N)C1=CC=C(CNC(C(OC)C2=C(C=C(C=C2)B2OC(C(O2)(C)C)(C)C)F)=O)C=C1 | C23H26BFN2O4
reactant | 3-bromopyridine | BrC=1C=NC=CC1 | C5H4BrN
product | (RS)-N-(4-cyano-benzyl)-2-(2-fluoro-4-pyridin-3-yl-phenyl)-2-methoxy-acetamide | C(#N)C1=CC=C(CNC(C(OC)C2=C(C=C(C=C2)C=2C=NC=CC2)F)=O)C=C1 | C22H18FN3O2
